US06090840
(R)-N-[(1,1-Dimethyl)ethoxycarbonyl]-S-methylcysteine N-methoxy-N-methylamide
A solution of Boc-S-methylcysteine (5 g), N,O-dimethylhydroxylamine hydrochloride (2.28 g) and N-hydroxybenzotriazole monohydrate (3.16 g) in tetrahydrofuran (60 ml) was treated with N-methylmorpholine at 0° C. under nitrogen. EDC (4.89 g) was added and the reaction was warmed to RT and stirred for 48 hours. The reaction mixture was concentrated in vacuo, to give a colourless residue which was partitioned between ethyl acetate (100 ml) and 10% citric acid (100 ml). The organic phase was washed with saturated sodium bicarbonate (70 ml) and brine (70 ml), dried (MgSO4), and evaporated to dryness in vacuo to give the title compound as a pale waxy solid (1.16 g, 29%).

reactant | Boc-S-methylcysteine | 5 g | C(=O)(OC(C)(C)C)N[C@@H](CSC)C(=O)O | C9H17NO4S
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.28 g | Cl.CNOC
reactant | N-hydroxybenzotriazole monohydrate | 3.16 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | EDC | 4.89 g
product | (R)-N-[(1,1-Dimethyl)ethoxycarbonyl]-S-methylcysteine N-methoxy-N-methylamide | CON(C([C@@H](NC(=O)OC(C)(C)C)CSC)=O)C | C11H22N2O4S
